US08729263B2
To a mixture of 3-(benzyloxy)-4-bromo-5-((2-(trimethylsilyl)ethoxy)methoxy)benzoic acid (6.142 g, 13.55 mmol) and Mukaiyama reagent (2-chloro-1-methylpyridinium iodide, 5.19 g, 20.3 mmol) in dichloromethane (135 mL) was added triethylamine (7.55 mL, 54.2 mmol). The solution was stirred for 10 minutes after which time propargylamine (1.74 mL, 27.1 mmol) was added. The solution was stirred overnight. The solution was diluted with 1:1 ethyl acetate/diethyl ether and washed with water, brine, dried over MgSO4 and concentrated. The crude product was purified by flash chromatography (40 g silica gel, gradient of ethyl acetate in dichloromethane) providing 3-(benzyloxy)-4-bromo-N-(prop-2-ynyl)-5-((2-(trimethylsilyl)ethoxy)-methoxy)-benzamide as an orange oil (6.49 g). MS (M+1)=492.2. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.28-7.55 (m, 5H) 7.13 (dd, J=11.37, 1.77 Hz, 2H) 6.23 (br. s., 1H) 5.34 (s, 2H) 5.20 (s, 2H) 4.22 (dd, J=5.05, 2.53 Hz, 2H) 3.81 (dd, J=9.09, 7.58 Hz, 2H) 2.28 (t, J=2.78 Hz, 1H) 0.91-1.00 (m, 2H) −0.03-0.03 (m, 9H).

reactant | 3-(benzyloxy)-4-bromo-5-((2-(trimethylsilyl)ethoxy)methoxy)benzoic acid | 13.55 mmol, 6.142 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)O)C=C(C1Br)OCOCC[Si](C)(C)C | C20H25BrO5Si
reactant | triethylamine | 54.2 mmol, 7.55 mL | C(C)N(CC)CC | C6H15N
reactant | propargylamine | 27.1 mmol, 1.74 mL | C(C#C)N | C3H5N
solvent | dichloromethane | 135 mL | ClCCl | CH2Cl2
solvent | ethyl acetate diethyl ether | C(C)(=O)OCC.C(C)OCC
product | 3-(benzyloxy)-4-bromo-N-(prop-2-ynyl)-5-((2-(trimethylsilyl)ethoxy)-methoxy)-benzamide | 6.49 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)NCC#C)C=C(C1Br)OCOCC[Si](C)(C)C | C23H28BrNO4Si
